US06028223
A solution of 3-aminobenzoic acid (41.1 g) in dioxane (300 ml) was treated with 3,5-dimethyl(pyrazole-1-carboxamidine) HNO3 (100 g), DIEA (90 ml) and H2O (100 ml). The reaction was refluxed for 3 hours and stirred overnight at room temperature. The solid was filtered and washed with dioxane (150 ml) and 1:1 dioxane:H2O (250 ml). The solid was then suspended in diethyl ether (400 ml) and CH3CN (100 ml) and treated with 4N HCl/dioxane (100 ml) and 20% HCl (1 ml). After 48 hours, the reaction was filtered and dried to give 3-[(aminoiminomethyl)amino]benzoic acid (34.1 g) as a lavender solid. MS was consistent with the desired product.

reactant | 3-aminobenzoic acid | 41.1 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 3,5-dimethyl(pyrazole-1-carboxamidine) HNO3 | 100 g | CC1=NN(C(=C1)C)C(=N)N.[N+](=O)(O)[O-]
reactant | DIEA | 90 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | H2O | 100 ml | O | H2O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3-[(aminoiminomethyl)amino]benzoic acid | 34.1 g | NN=CNC=1C=C(C(=O)O)C=CC1 | C8H9N3O2
